US04563455
To a solution of 2-anilinoaniline (1.84 g) and 3-pyridineacetic acid (1.37 g) in chloroform (20 ml) was dropwise added phosphorus oxychloride (1.53 g) and the mixture was refluxed for 6 hours. After removal of the solvent under reduced pressure, the resultant residue was poured into a saturated aqueous solution of sodium bicarbonate. The mixture was extracted twice with ethyl acetate. The combined extract was washed with water and a saturated aqueous solution of sodium chloride successively, and dried over magnesium sulfate. The solvent was removed under reduced pressure to give a crystalline product, which was recrystallized from a mixture of isopropyl alcohol and n-hexane (1:2) to give 2-(pyridin-3-yl)methyl-1-phenyl-1H-benzimidazole (1.0 g).

reactant | 2-anilinoaniline | 1.84 g | N(C1=CC=CC=C1)C1=C(N)C=CC=C1 | C12H12N2
reactant | 3-pyridineacetic acid | 1.37 g | N1=CC(=CC=C1)CC(=O)O | C7H7NO2
reactant | phosphorus oxychloride | 1.53 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(pyridin-3-yl)methyl-1-phenyl-1H-benzimidazole | 1.0 g | N1=CC(=CC=C1)CC1=NC2=C(N1C1=CC=CC=C1)C=CC=C2 | C19H15N3
